US03956279
To an efficiently stirred mixture of water (250 ml) containing sodium bicarbonate (10 g) and hexane (250 ml, boiling range 60°-80° C), n-butanol (15 ml) and crystalline seed (1 g) were added. Pivampicillin hydrochloride (50 g) dissolved in water (200 ml) was introduced over 1 hour at room temperature. The mixture was filtered and the residue washed with isopropanol-water (1:4) (250 ml), isopropanol (150 ml) and hexane (300 ml, bp. 60°-80° C). Air-drying at 25° C overnight yielded crystalline pivampicillin with a melting point of 114° C.

reactant | sodium bicarbonate | 10 g | C([O-])(O)=O.[Na+]
reactant | hexane | 250 ml | CCCCCC | C6H14
reactant | n-butanol | 15 ml | C(CCC)O | C4H10O
reactant | Pivampicillin hydrochloride | 50 g | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@H](C=3C=CC=CC3)N)C(=O)OCOC(=O)C(C)(C)C)C.Cl
solvent | water | 200 ml | O | H2O
solvent | water | 250 ml | O | H2O
product | pivampicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@H](C=3C=CC=CC3)N)C(=O)OCOC(=O)C(C)(C)C)C | C22H29N3O6S
